US04795486
A solution of 12.65 g of 2-amino-3,5-dibromo-pyrazine and 18.5 ml of 96% sulfuric acid is added dropwise to a solution of 3.45 g of sodium nitrite and 27.5 ml of 96% sulfuric acid at 0° to 5° C. The mixture is then allowed to warm to 20° C. in the course of 2 hours and is stirred at 20°-25° C. for a further 15 hours. The reaction mixture is poured into ice and the product is filtered off, washed with ice-water and dried to give 5.8 g of 3,5-dibromo-pyrazin-2-one.

reactant | 2-amino-3,5-dibromo-pyrazine | 12.65 g | NC1=NC=C(N=C1Br)Br | C4H3Br2N3
reactant | sulfuric acid | 18.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 3.45 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 27.5 ml | S(O)(O)(=O)=O | H2O4S
product | 3,5-dibromo-pyrazin-2-one | 5.8 g | BrC=1C(NC=C(N1)Br)=O | C4H2Br2N2O
